US07468375B2
Step 3: 1-(4-Fluorobenzyl)-N-hydroxy-4-(3-hydroxypropyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxamide.
To a solution of ethyl 1-(4-fluorobenzyl)-4-(3-hydroxypropyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylate (22 mg, 0.06 mmol) in MeOH (3 mL) was added sodium hydroxide (15 mg, 0.38 mmol) and hydroxylamine (50 wt. % in water) (82.5 mg, 1.25 mmol). The resulting mixture was stirred for 18 h at room temperature. The mixture was neutralized by acetic acid and concentrated. The title compound was purified by preparative HPLC to provide the title compound as a white powder (4 mg, 19% yield). 1H NMR (300 MHz, MeOH) δ ppm 8.53 (s, 1H) 7.63 (d, J=3.20 Hz, 1H) 7.20-7.27 (m, J=8.57, 5.37 Hz, 2H) 7.05 (t, J=8.76 Hz, 2H) 6.81 (d, J=2.83 Hz, 1H) 5.52 (s, 2H) 3.60 (t, J=6.31 Hz, 2H) 1.90-2.04 (m, 4H). LC-MS (APCI, M+H+): 344.2. HPLC: 90% purity.

reactant | ethyl 1-(4-fluorobenzyl)-4-(3-hydroxypropyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylate | 0.06 mmol, 22 mg | FC1=CC=C(CN2C=CC=3C2=CN=C(C3CCCO)C(=O)OCC)C=C1 | C20H21FN2O3
reactant | sodium hydroxide | 0.38 mmol, 15 mg | [OH-].[Na+]
reactant | hydroxylamine | 1.25 mmol, 82.5 mg | NO | H3NO
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | MeOH | 3 mL | CO | CH4O
product | 1-(4-Fluorobenzyl)-N-hydroxy-4-(3-hydroxypropyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxamide | 4 mg, 19% yield | FC1=CC=C(CN2C=CC=3C2=CN=C(C3CCCO)C(=O)NO)C=C1 | C18H18FN3O3
